US04288390
Into a reaction vessel as employed in Example 1 is added 13.3 parts of paraformaldehyde and 62.9 parts of a 48.1% aqueous solution of acrylamide. The pH is adjusted with aqueous NaOH to 11.5 and the homogeneous mixture allowed to stand 24 hours at room temperature. The product, >90 mole percent converted N-methylolacrylamide, is acidified to a pH of 2 and to it is added 57.5 parts of a 40% dimethylamine aqueous solution acidified to a pH of 2. The resulting solution is heated 3 hours at 65° C. and yields about 50 mole percent of N-(dimethylaminomethyl)acrylamide.

reactant | paraformaldehyde | C=O | CH2O
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | NaOH | [OH-].[Na+]
reactant | N-methylolacrylamide | C(O)NC(C=C)=O | C4H7NO2
reactant | dimethylamine | CNC | C2H7N
product | N-(dimethylaminomethyl)acrylamide | CN(C)CNC(C=C)=O | C6H12N2O
